US08304557B2
N-(3-{[1-(2-amino-2-oxoethyl)-6-{[(4-methylphenyl)sulfonyl]imino}-1,6-dihydropyridin-3-yl]oxy}phenyl)-3-methylpyridine-2-carboxamide
A mixture of 3-methyl-N-{3-[(6-{[(4-methylphenyl)sulfonyl]amino}pyridin-3-yl)oxy]phenyl}pyridine-2-carboxamide (12.4 g, 26.2 mmol), N,N-diisopropylethylamine (6.00 mL, 34.4 mmol) and N,N-dimethylformamide (100 mL) was stirred at room temperature for 1 hr. Iodoacetamide (6.29 g, 34.0 mmol) was added, and the mixture was stirred at room temperature for 71 hr. The reaction mixture was diluted with water and extracted with ethyl acetate. The organic layer was washed with water and saturated brine, dried over anhydrous magnesium sulfate and filtrated. The filtrate was concentrated under reduced pressure, and the residue was recrystallized from ethanol to give the title compound (9.72 g, 70%) as a white solid.

reactant | 3-methyl-N-{3-[(6-{[(4-methylphenyl)sulfonyl]amino}pyridin-3-yl)oxy]phenyl}pyridine-2-carboxamide | 26.2 mmol, 12.4 g | CC=1C(=NC=CC1)C(=O)NC1=CC(=CC=C1)OC=1C=NC(=CC1)NS(=O)(=O)C1=CC=C(C=C1)C | C25H22N4O4S
reactant | N,N-diisopropylethylamine | 34.4 mmol, 6.00 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
reactant | Iodoacetamide | 34.0 mmol, 6.29 g | ICC(=O)N | C2H4INO
solvent | water | O | H2O
product | N-(3-{[1-(2-amino-2-oxoethyl)-6-{[(4-methylphenyl)sulfonyl]imino}-1,6-dihydropyridin-3-yl]oxy}phenyl)-3-methylpyridine-2-carboxamide | 9.72 g, 70% | NC(CN1C=C(C=CC1=NS(=O)(=O)C1=CC=C(C=C1)C)OC=1C=C(C=CC1)NC(=O)C1=NC=CC=C1C)=O | C27H25N5O5S
